** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J20c: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 2.000000% RMS
** (seeded RNG, seed 185020), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.526718n 1.8
+ 4.526718n 0 5.553435n 0 6.553435n 1.8 7.554477n 1.8
+ 8.554477n 0 9.555519n 0 10.555519n 1.8 11.516415n 1.8
+ 12.516415n 0 13.477311n 0 14.477311n 1.8 15.400017n 1.8
+ 16.400017n 0 17.322723n 0 18.322723n 1.8 19.254881n 1.8
+ 20.254881n 0 21.187039n 0 22.187039n 1.8 23.130937n 1.8
+ 24.130937n 0 25.074835n 0 26.074835n 1.8 27.007245n 1.8
+ 28.007245n 0 28.939654n 0 29.939654n 1.8 30.911071n 1.8
+ 31.911071n 0 32.882487n 0 33.882487n 1.8 34.881092n 1.8
+ 35.881092n 0 36.879697n 0 37.879697n 1.8 38.867873n 1.8
+ 39.867873n 0 40.856050n 0 41.856050n 1.8 42.749159n 1.8
+ 43.749159n 0 44.642269n 0 45.642269n 1.8 46.629540n 1.8
+ 47.629540n 0 48.616812n 0 49.616812n 1.8 50.630739n 1.8
+ 51.630739n 0 52.644665n 0 53.644665n 1.8 54.549077n 1.8
+ 55.549077n 0 56.453489n 0 57.453489n 1.8 58.452050n 1.8
+ 59.452050n 0 60.450611n 0 61.450611n 1.8 62.322305n 1.8
+ 63.322305n 0 64.194000n 0 65.194000n 1.8 66.147324n 1.8
+ 67.147324n 0 68.100649n 0 69.100649n 1.8 70.081258n 1.8
+ 71.081258n 0 72.061868n 0 73.061868n 1.8 73.971902n 1.8
+ 74.971902n 0 75.881936n 0 76.881936n 1.8 77.890432n 1.8
+ 78.890432n 0 79.898928n 0 80.898928n 1.8 81.849630n 1.8
+ 82.849630n 0 83.800331n 0 84.800331n 1.8 85.768505n 1.8
+ 86.768505n 0 87.736680n 0 88.736680n 1.8 89.663668n 1.8
+ 90.663668n 0 91.590656n 0 92.590656n 1.8 93.570806n 1.8
+ 94.570806n 0 95.550956n 0 96.550956n 1.8 97.558699n 1.8
+ 98.558699n 0 99.566443n 0 100.566443n 1.8 101.503670n 1.8
+ 102.503670n 0 103.440896n 0 104.440896n 1.8 105.348168n 1.8
+ 106.348168n 0 107.255440n 0 108.255440n 1.8 109.127216n 1.8
+ 110.127216n 0 110.998993n 0 111.998993n 1.8 112.991125n 1.8
+ 113.991125n 0 114.983257n 0 115.983257n 1.8 116.928776n 1.8
+ 117.928776n 0 118.874294n 0 119.874294n 1.8 120.865963n 1.8
+ 121.865963n 0 122.857631n 0 123.857631n 1.8 124.819040n 1.8
+ 125.819040n 0 126.780448n 0 127.780448n 1.8 128.706747n 1.8
+ 129.706747n 0 130.633045n 0 131.633045n 1.8 132.625448n 1.8
+ 133.625448n 0 134.617851n 0 135.617851n 1.8 136.632783n 1.8
+ 137.632783n 0 138.647715n 0 139.647715n 1.8 140.640677n 1.8
+ 141.640677n 0 142.633638n 0 143.633638n 1.8 144.598818n 1.8
+ 145.598818n 0 146.563997n 0 147.563997n 1.8 148.479751n 1.8
+ 149.479751n 0 150.395504n 0 151.395504n 1.8 152.395248n 1.8
+ 153.395248n 0 154.394992n 0 155.394992n 1.8 156.346499n 1.8
+ 157.346499n 0 158.298005n 0 159.298005n 1.8 160.186095n 1.8
+ 161.186095n 0 162.074185n 0 163.074185n 1.8 164.026918n 1.8
+ 165.026918n 0 165.979650n 0 166.979650n 1.8 167.883842n 1.8
+ 168.883842n 0 169.788033n 0 170.788033n 1.8 171.799283n 1.8
+ 172.799283n 0 173.810533n 0 174.810533n 1.8 175.796602n 1.8
+ 176.796602n 0 177.782670n 0 178.782670n 1.8 179.685998n 1.8
+ 180.685998n 0 181.589326n 0 182.589326n 1.8 183.589354n 1.8
+ 184.589354n 0 185.589381n 0 186.589381n 1.8 187.571504n 1.8
+ 188.571504n 0 189.553627n 0 190.553627n 1.8 191.511032n 1.8
+ 192.511032n 0 193.468436n 0 194.468436n 1.8 195.394042n 1.8
+ 196.394042n 0 197.319648n 0 198.319648n 1.8 199.208880n 1.8
+ 200.208880n 0 201.098112n 0 202.098112n 1.8 203.092624n 1.8
+ 204.092624n 0 205.087135n 0 206.087135n 1.8 207.038938n 1.8
+ 208.038938n 0 208.990741n 0 209.990741n 1.8 210.960868n 1.8
+ 211.960868n 0 212.930995n 0 213.930995n 1.8 214.853427n 1.8
+ 215.853427n 0 216.775859n 0 217.775859n 1.8 218.742708n 1.8
+ 219.742708n 0 220.709557n 0 221.709557n 1.8 222.685296n 1.8
+ 223.685296n 0 224.661034n 0 225.661034n 1.8 226.636825n 1.8
+ 227.636825n 0 228.612615n 0 229.612615n 1.8 230.605090n 1.8
+ 231.605090n 0 232.597564n 0 233.597564n 1.8 234.630977n 1.8
+ 235.630977n 0 236.664390n 0 237.664390n 1.8 238.560409n 1.8
+ 239.560409n 0 240.456429n 0 241.456429n 1.8 242.409372n 1.8
+ 243.409372n 0 244.362314n 0 245.362314n 1.8 246.346034n 1.8
+ 247.346034n 0 248.329753n 0 249.329753n 1.8 250.273425n 1.8
+ 251.273425n 0 252.217097n 0 253.217097n 1.8 254.173888n 1.8
+ 255.173888n 0 256.130679n 0 257.130679n 1.8 258.076368n 1.8
+ 259.076368n 0 260.022057n 0 261.022057n 1.8 262.054386n 1.8
+ 263.054386n 0 264.086716n 0 265.086716n 1.8 266.050911n 1.8
+ 267.050911n 0 268.015107n 0 269.015107n 1.8 269.990510n 1.8
+ 270.990510n 0 271.965913n 0 272.965913n 1.8 273.950816n 1.8
+ 274.950816n 0 275.935719n 0 276.935719n 1.8 277.856576n 1.8
+ 278.856576n 0 279.777433n 0 280.777433n 1.8 281.770433n 1.8
+ 282.770433n 0 283.763434n 0 284.763434n 1.8 285.726767n 1.8
+ 286.726767n 0 287.690100n 0 288.690100n 1.8 289.584317n 1.8
+ 290.584317n 0 291.478534n 0 292.478534n 1.8 293.481446n 1.8
+ 294.481446n 0 295.484358n 0 296.484358n 1.8 297.421955n 1.8
+ 298.421955n 0 299.359553n 0 300.359553n 1.8 301.288550n 1.8
+ 302.288550n 0 303.217548n 0 304.217548n 1.8 305.206708n 1.8
+ 306.206708n 0 307.195869n 0 308.195869n 1.8 309.111346n 1.8
+ 310.111346n 0 311.026824n 0 312.026824n 1.8 313.068151n 1.8
+ 314.068151n 0 315.109479n 0 316.109479n 1.8 316.978904n 1.8
+ 317.978904n 0 318.848329n 0 319.848329n 1.8 320.796071n 1.8
+ 321.796071n 0 322.743813n 0 323.743813n 1.8 324.785839n 1.8
+ 325.785839n 0 326.827866n 0 327.827866n 1.8 328.711935n 1.8
+ 329.711935n 0 330.596004n 0 331.596004n 1.8 332.503577n 1.8
+ 333.503577n 0 334.411150n 0 335.411150n 1.8 336.404651n 1.8
+ 337.404651n 0 338.398152n 0 339.398152n 1.8 340.343668n 1.8
+ 341.343668n 0 342.289183n 0 343.289183n 1.8 344.243582n 1.8
+ 345.243582n 0 346.197980n 0 347.197980n 1.8 348.187998n 1.8
+ 349.187998n 0 350.178017n 0 351.178017n 1.8 352.160082n 1.8
+ 353.160082n 0 354.142147n 0 355.142147n 1.8 356.122866n 1.8
+ 357.122866n 0 358.103585n 0 359.103585n 1.8 360.059817n 1.8
+ 361.059817n 0 362.016049n 0 363.016049n 1.8 363.955060n 1.8
+ 364.955060n 0 365.894070n 0 366.894070n 1.8 367.788905n 1.8
+ 368.788905n 0 369.683740n 0 370.683740n 1.8 371.639765n 1.8
+ 372.639765n 0 373.595790n 0 374.595790n 1.8 375.555147n 1.8
+ 376.555147n 0 377.514503n 0 378.514503n 1.8 379.462582n 1.8
+ 380.462582n 0 381.410661n 0 382.410661n 1.8 383.319276n 1.8
+ 384.319276n 0 385.227892n 0 386.227892n 1.8 387.187304n 1.8
+ 388.187304n 0 389.146716n 0 390.146716n 1.8 391.206628n 1.8
+ 392.206628n 0 393.266540n 0 394.266540n 1.8 395.205526n 1.8
+ 396.205526n 0 397.144512n 0 398.144512n 1.8 399.055598n 1.8
+ 400.055598n 0 400.966683n 0 401.966683n 1.8 402.949484n 1.8
+ 403.949484n 0 404.932285n 0 405.932285n 1.8 406.816987n 1.8
+ 407.816987n 0 408.701689n 0 409.701689n 1.8 410.616584n 1.8
+ 411.616584n 0 412.531480n 0 413.531480n 1.8 414.445456n 1.8
+ 415.445456n 0 416.359433n 0 417.359433n 1.8 418.324902n 1.8
+ 419.324902n 0 420.290371n 0 421.290371n 1.8 422.174743n 1.8
+ 423.174743n 0 424.059115n 0 425.059115n 1.8 426.036184n 1.8
+ 427.036184n 0 428.013253n 0 429.013253n 1.8 429.910539n 1.8
+ 430.910539n 0 431.807825n 0 432.807825n 1.8 433.776575n 1.8
+ 434.776575n 0 435.745325n 0 436.745325n 1.8 437.720629n 1.8
+ 438.720629n 0 439.695933n 0 440.695933n 1.8 441.682729n 1.8
+ 442.682729n 0 443.669524n 0 444.669524n 1.8 445.598918n 1.8
+ 446.598918n 0 447.528311n 0 448.528311n 1.8 449.479560n 1.8
+ 450.479560n 0 451.430810n 0 452.430810n 1.8 453.383011n 1.8
+ 454.383011n 0 455.335213n 0 456.335213n 1.8 457.333733n 1.8
+ 458.333733n 0 459.332254n 0 460.332254n 1.8 461.322428n 1.8
+ 462.322428n 0 463.312602n 0 464.312602n 1.8 465.280601n 1.8
+ 466.280601n 0 467.248600n 0 468.248600n 1.8 469.168893n 1.8
+ 470.168893n 0 471.089186n 0 472.089186n 1.8 473.096590n 1.8
+ 474.096590n 0 475.103993n 0 476.103993n 1.8 477.077030n 1.8
+ 478.077030n 0 479.050068n 0 480.050068n 1.8 480.999655n 1.8
+ 481.999655n 0 482.949242n 0 483.949242n 1.8 484.936479n 1.8
+ 485.936479n 0 486.923716n 0 487.923716n 1.8 488.891229n 1.8
+ 489.891229n 0 490.858743n 0 491.858743n 1.8 492.869815n 1.8
+ 493.869815n 0 494.880888n 0 495.880888n 1.8 496.834749n 1.8
+ 497.834749n 0 498.788611n 0 499.788611n 1.8 500.811995n 1.8
+ 501.811995n 0 502.835378n 0 503.835378n 1.8 504.858923n 1.8
+ 505.858923n 0 506.882469n 0 507.882469n 1.8 508.809741n 1.8
+ 509.809741n 0 510.737014n 0 511.737014n 1.8 512.716577n 1.8
+ 513.716577n 0 514.696139n 0 515.696139n 1.8 516.675999n 1.8
+ 517.675999n 0 518.655858n 0 519.655858n 1.8 520.618706n 1.8
+ 521.618706n 0 522.581554n 0 523.581554n 1.8 524.554875n 1.8
+ 525.554875n 0 526.528197n 0 527.528197n 1.8 528.537620n 1.8
+ 529.537620n 0 530.547044n 0 531.547044n 1.8 532.556717n 1.8
+ 533.556717n 0 534.566390n 0 535.566390n 1.8 536.584310n 1.8
+ 537.584310n 0 538.602230n 0 539.602230n 1.8 540.583828n 1.8
+ 541.583828n 0 542.565426n 0 543.565426n 1.8 544.493725n 1.8
+ 545.493725n 0 546.422023n 0 547.422023n 1.8 548.397184n 1.8
+ 549.397184n 0 550.372344n 0 551.372344n 1.8 552.307766n 1.8
+ 553.307766n 0 554.243188n 0 555.243188n 1.8 556.226902n 1.8
+ 557.226902n 0 558.210615n 0 559.210615n 1.8 560.198627n 1.8
+ 561.198627n 0 562.186639n 0 563.186639n 1.8 564.209040n 1.8
+ 565.209040n 0 566.231442n 0 567.231442n 1.8 568.169672n 1.8
+ 569.169672n 0 570.107902n 0 571.107902n 1.8 572.076745n 1.8
+ 573.076745n 0 574.045589n 0 575.045589n 1.8 575.971496n 1.8
+ 576.971496n 0 577.897402n 0 578.897402n 1.8 579.927165n 1.8
+ 580.927165n 0 581.956927n 0 582.956927n 1.8 583.909947n 1.8
+ 584.909947n 0 585.862966n 0 586.862966n 1.8 587.819133n 1.8
+ 588.819133n 0 589.775300n 0 590.775300n 1.8 591.740087n 1.8
+ 592.740087n 0 593.704873n 0 594.704873n 1.8 595.662320n 1.8
+ 596.662320n 0 597.619766n 0 598.619766n 1.8 599.529310n 1.8
+ 600.529310n 0 601.438854n 0 602.438854n 1.8 603.439334n 1.8
+ 604.439334n 0 605.439814n 0 606.439814n 1.8 607.374491n 1.8
+ 608.374491n 0 609.309167n 0 610.309167n 1.8 611.222369n 1.8
+ 612.222369n 0 613.135571n 0 614.135571n 1.8 615.116797n 1.8
+ 616.116797n 0 617.098023n 0 618.098023n 1.8 619.101911n 1.8
+ 620.101911n 0 621.105799n 0 622.105799n 1.8 623.101510n 1.8
+ 624.101510n 0 625.097220n 0 626.097220n 1.8 627.076144n 1.8
+ 628.076144n 0 629.055068n 0 630.055068n 1.8 630.984426n 1.8
+ 631.984426n 0 632.913784n 0 633.913784n 1.8 634.800661n 1.8
+ 635.800661n 0 636.687537n 0 637.687537n 1.8 638.629021n 1.8
+ 639.629021n 0 640.570504n 0 641.570504n 1.8 642.498441n 1.8
+ 643.498441n 0 644.426379n 0 645.426379n 1.8 646.421783n 1.8
+ 647.421783n 0 648.417187n 0 649.417187n 1.8 650.396993n 1.8
+ 651.396993n 0 652.376798n 0 653.376798n 1.8 654.381530n 1.8
+ 655.381530n 0 656.386262n 0 657.386262n 1.8 658.293018n 1.8
+ 659.293018n 0 660.199774n 0 661.199774n 1.8 662.181867n 1.8
+ 663.181867n 0 664.163959n 0 665.163959n 1.8 666.152698n 1.8
+ 667.152698n 0 668.141437n 0 669.141437n 1.8 670.043424n 1.8
+ 671.043424n 0 671.945410n 0 672.945410n 1.8 673.919042n 1.8
+ 674.919042n 0 675.892674n 0 676.892674n 1.8 677.882503n 1.8
+ 678.882503n 0 679.872333n 0 680.872333n 1.8 681.859271n 1.8
+ 682.859271n 0 683.846208n 0 684.846208n 1.8 685.785469n 1.8
+ 686.785469n 0 687.724729n 0 688.724729n 1.8 689.675530n 1.8
+ 690.675530n 0 691.626332n 0 692.626332n 1.8 693.589827n 1.8
+ 694.589827n 0 695.553322n 0 696.553322n 1.8 697.484842n 1.8
+ 698.484842n 0 699.416363n 0 700.416363n 1.8 701.364123n 1.8
+ 702.364123n 0 703.311883n 0 704.311883n 1.8 705.261815n 1.8
+ 706.261815n 0 707.211747n 0 708.211747n 1.8 709.162950n 1.8
+ 710.162950n 0 711.114153n 0 712.114153n 1.8 713.070599n 1.8
+ 714.070599n 0 715.027045n 0 716.027045n 1.8 717.021793n 1.8
+ 718.021793n 0 719.016540n 0 720.016540n 1.8 720.933188n 1.8
+ 721.933188n 0 722.849836n 0 723.849836n 1.8 724.794470n 1.8
+ 725.794470n 0 726.739103n 0 727.739103n 1.8 728.658581n 1.8
+ 729.658581n 0 730.578058n 0 731.578058n 1.8 732.464673n 1.8
+ 733.464673n 0 734.351287n 0 735.351287n 1.8 736.298530n 1.8
+ 737.298530n 0 738.245773n 0 739.245773n 1.8 740.171536n 1.8
+ 741.171536n 0 742.097299n 0 743.097299n 1.8 744.059487n 1.8
+ 745.059487n 0 746.021676n 0 747.021676n 1.8 747.978433n 1.8
+ 748.978433n 0 749.935190n 0 750.935190n 1.8 751.831361n 1.8
+ 752.831361n 0 753.727532n 0 754.727532n 1.8 755.652395n 1.8
+ 756.652395n 0 757.577257n 0 758.577257n 1.8 759.532181n 1.8
+ 760.532181n 0 761.487105n 0 762.487105n 1.8 763.472876n 1.8
+ 764.472876n 0 765.458646n 0 766.458646n 1.8 767.421526n 1.8
+ 768.421526n 0 769.384406n 0 770.384406n 1.8 771.331382n 1.8
+ 772.331382n 0 773.278359n 0 774.278359n 1.8 775.202756n 1.8
+ 776.202756n 0 777.127154n 0 778.127154n 1.8 779.113196n 1.8
+ 780.113196n 0 781.099237n 0 782.099237n 1.8 783.071057n 1.8
+ 784.071057n 0 785.042876n 0 786.042876n 1.8 787.017634n 1.8
+ 788.017634n 0 788.992391n 0 789.992391n 1.8 790.979367n 1.8
+ 791.979367n 0 792.966343n 0 793.966343n 1.8 794.924664n 1.8
+ 795.924664n 0 796.882985n 0 797.882985n 1.8 798.925909n 1.8
+ 799.925909n 0 800.968833n 0 801.968833n 1.8 802.920192n 1.8
+ 803.920192n 0 804.871552n 0 805.871552n 1.8 806.867617n 1.8
+ 807.867617n 0 808.863681n 0 809.863681n 1.8 810.841412n 1.8
+ 811.841412n 0 812.819143n 0 813.819143n 1.8 814.752398n 1.8
+ 815.752398n 0 816.685652n 0 817.685652n 1.8 818.689165n 1.8
+ 819.689165n 0 820.692678n 0 821.692678n 1.8 822.677197n 1.8
+ 823.677197n 0 824.661717n 0 825.661717n 1.8 826.616711n 1.8
+ 827.616711n 0 828.571704n 0 829.571704n 1.8 830.452478n 1.8
+ 831.452478n 0 832.333252n 0 833.333252n 1.8 834.311668n 1.8
+ 835.311668n 0 836.290084n 0 837.290084n 1.8 838.258341n 1.8
+ 839.258341n 0 840.226598n 0 841.226598n 1.8 842.137197n 1.8
+ 843.137197n 0 844.047795n 0 845.047795n 1.8 846.060141n 1.8
+ 847.060141n 0 848.072487n 0 849.072487n 1.8 849.991148n 1.8
+ 850.991148n 0 851.909810n 0 852.909810n 1.8 853.924838n 1.8
+ 854.924838n 0 855.939866n 0 856.939866n 1.8 857.870589n 1.8
+ 858.870589n 0 859.801313n 0 860.801313n 1.8 861.767161n 1.8
+ 862.767161n 0 863.733009n 0 864.733009n 1.8 865.694170n 1.8
+ 866.694170n 0 867.655331n 0 868.655331n 1.8 869.629893n 1.8
+ 870.629893n 0 871.604455n 0 872.604455n 1.8 873.474315n 1.8
+ 874.474315n 0 875.344175n 0 876.344175n 1.8 877.253680n 1.8
+ 878.253680n 0 879.163185n 0 880.163185n 1.8 881.164700n 1.8
+ 882.164700n 0 883.166216n 0 884.166216n 1.8 885.105035n 1.8
+ 886.105035n 0 887.043854n 0 888.043854n 1.8 889.082929n 1.8
+ 890.082929n 0 891.122005n 0 892.122005n 1.8 893.092369n 1.8
+ 894.092369n 0 895.062733n 0 896.062733n 1.8 896.987649n 1.8
+ 897.987649n 0 898.912565n 0 899.912565n 1.8 900.917191n 1.8
+ 901.917191n 0 902.921817n 0 903.921817n 1.8 904.923546n 1.8
+ 905.923546n 0 906.925274n 0 907.925274n 1.8 908.907789n 1.8
+ 909.907789n 0 910.890304n 0 911.890304n 1.8 912.875516n 1.8
+ 913.875516n 0 914.860727n 0 915.860727n 1.8 916.904989n 1.8
+ 917.904989n 0 918.949251n 0 919.949251n 1.8 920.886669n 1.8
+ 921.886669n 0 922.824087n 0 923.824087n 1.8 924.818395n 1.8
+ 925.818395n 0 926.812702n 0 927.812702n 1.8 928.762797n 1.8
+ 929.762797n 0 930.712893n 0 931.712893n 1.8 932.701082n 1.8
+ 933.701082n 0 934.689271n 0 935.689271n 1.8 936.694494n 1.8
+ 937.694494n 0 938.699717n 0 939.699717n 1.8 940.635642n 1.8
+ 941.635642n 0 942.571567n 0 943.571567n 1.8 944.503490n 1.8
+ 945.503490n 0 946.435412n 0 947.435412n 1.8 948.363839n 1.8
+ 949.363839n 0 950.292266n 0 951.292266n 1.8 952.246392n 1.8
+ 953.246392n 0 954.200518n 0 955.200518n 1.8 956.126896n 1.8
+ 957.126896n 0 958.053274n 0 959.053274n 1.8 959.872585n 1.8
+ 960.872585n 0 961.691896n 0 962.691896n 1.8 963.664953n 1.8
+ 964.664953n 0 965.638009n 0 966.638009n 1.8 967.591215n 1.8
+ 968.591215n 0 969.544420n 0 970.544420n 1.8 971.480280n 1.8
+ 972.480280n 0 973.416139n 0 974.416139n 1.8 975.304763n 1.8
+ 976.304763n 0 977.193386n 0 978.193386n 1.8 979.107186n 1.8
+ 980.107186n 0 981.020987n 0 982.020987n 1.8 982.924699n 1.8
+ 983.924699n 0 984.828411n 0 985.828411n 1.8 986.807940n 1.8
+ 987.807940n 0 988.787469n 0 989.787469n 1.8 990.760144n 1.8
+ 991.760144n 0 992.732818n 0 993.732818n 1.8 994.700999n 1.8
+ 995.700999n 0 996.669180n 0 997.669180n 1.8 998.628120n 1.8
+ 999.628120n 0 1000.587060n 0 1001.587060n 1.8 1002.529660n 1.8
+ 1003.529660n 0 1004.472259n 0 1005.472259n 1.8 1006.425794n 1.8
+ 1007.425794n 0 1008.379329n 0 1009.379329n 1.8 1010.234314n 1.8
+ 1011.234314n 0 1012.089298n 0 1013.089298n 1.8 1014.076840n 1.8
+ 1015.076840n 0 1016.064383n 0 1017.064383n 1.8 1017.962444n 1.8
+ 1018.962444n 0 1019.860505n 0 1020.860505n 1.8 1021.813828n 1.8
+ 1022.813828n 0 1023.767150n 0 1024.767150n 1.8 1025.700931n 1.8
+ 1026.700931n 0 1027.634712n 0 1028.634712n 1.8 1029.553101n 1.8
+ 1030.553101n 0 1031.471489n 0 1032.471489n 1.8 1033.464841n 1.8
+ 1034.464841n 0 1035.458194n 0 1036.458194n 1.8 1037.484863n 1.8
+ 1038.484863n 0 1039.511532n 0 1040.511532n 1.8 1041.470865n 1.8
+ 1042.470865n 0 1043.430197n 0 1044.430197n 1.8 1045.381948n 1.8
+ 1046.381948n 0 1047.333699n 0 1048.333699n 1.8 1049.207733n 1.8
+ 1050.207733n 0 1051.081766n 0 1052.081766n 1.8 1053.071904n 1.8
+ 1054.071904n 0 1055.062041n 0 1056.062041n 1.8 1056.961843n 1.8
+ 1057.961843n 0 1058.861646n 0 1059.861646n 1.8 1060.840990n 1.8
+ 1061.840990n 0 1062.820334n 0 1063.820334n 1.8 1064.850804n 1.8
+ 1065.850804n 0 1066.881275n 0 1067.881275n 1.8 1068.886057n 1.8
+ 1069.886057n 0 1070.890838n 0 1071.890838n 1.8 1072.894127n 1.8
+ 1073.894127n 0 1074.897415n 0 1075.897415n 1.8 1076.786152n 1.8
+ 1077.786152n 0 1078.674889n 0 1079.674889n 1.8 1080.669770n 1.8
+ 1081.669770n 0 1082.664651n 0 1083.664651n 1.8 1084.632823n 1.8
+ 1085.632823n 0 1086.600996n 0 1087.600996n 1.8 1088.529023n 1.8
+ 1089.529023n 0 1090.457050n 0 1091.457050n 1.8 1092.428508n 1.8
+ 1093.428508n 0 1094.399967n 0 1095.399967n 1.8 1096.346147n 1.8
+ 1097.346147n 0 1098.292327n 0 1099.292327n 1.8 1100.262081n 1.8
+ 1101.262081n 0 1102.231836n 0 1103.231836n 1.8 1104.152715n 1.8
+ 1105.152715n 0 1106.073594n 0 1107.073594n 1.8 1108.032064n 1.8
+ 1109.032064n 0 1109.990534n 0 1110.990534n 1.8 1111.968346n 1.8
+ 1112.968346n 0 1113.946158n 0 1114.946158n 1.8 1115.952095n 1.8
+ 1116.952095n 0 1117.958032n 0 1118.958032n 1.8 1119.923233n 1.8
+ 1120.923233n 0 1121.888434n 0 1122.888434n 1.8 1123.830813n 1.8
+ 1124.830813n 0 1125.773193n 0 1126.773193n 1.8 1127.770548n 1.8
+ 1128.770548n 0 1129.767902n 0 1130.767902n 1.8 1131.689554n 1.8
+ 1132.689554n 0 1133.611205n 0 1134.611205n 1.8 1135.591027n 1.8
+ 1136.591027n 0 1137.570849n 0 1138.570849n 1.8 1139.489201n 1.8
+ 1140.489201n 0 1141.407553n 0 1142.407553n 1.8 1143.370904n 1.8
+ 1144.370904n 0 1145.334255n 0 1146.334255n 1.8 1147.310668n 1.8
+ 1148.310668n 0 1149.287081n 0 1150.287081n 1.8 1151.229362n 1.8
+ 1152.229362n 0 1153.171642n 0 1154.171642n 1.8 1155.141985n 1.8
+ 1156.141985n 0 1157.112328n 0 1158.112328n 1.8 1159.058217n 1.8
+ 1160.058217n 0 1161.004106n 0 1162.004106n 1.8 1162.956936n 1.8
+ 1163.956936n 0 1164.909766n 0 1165.909766n 1.8 1166.862340n 1.8
+ 1167.862340n 0 1168.814913n 0 1169.814913n 1.8 1170.778943n 1.8
+ 1171.778943n 0 1172.742972n 0 1173.742972n 1.8 1174.671486n 1.8
+ 1175.671486n 0 1176.600000n 0 1177.600000n 1.8 1178.558500n 1.8
+ 1179.558500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
